US05935972
5-Phenyl-benzofuran-7-carbaldehyde
A mixture of 5-bromo-benzofuran-7-carbaldehyde (600 mg), phenylboronic acid (326 mg) and tetrakis(triphenylphosphine)palladium (O) (176 mg) in dimethoxyethane (20 ml) and 8% sodium bicarbonate (10 ml) was heated at reflux for 16 h. Solvent was removed in vacuo, the residue was partitioned between chloroform (40 ml) and water (40 ml). The organic phase was washed with brine (50 ml), dried, filtered and the filtrate evaporated in vacuo to give a yellow oil. Purification by FCC eluted with hexane:ethyl acetate (1:0→10:1) gave the title compound as a pale yellow solid (214 mg).

reactant | 5-bromo-benzofuran-7-carbaldehyde | 600 mg | BrC=1C=C(C2=C(C=CO2)C1)C=O | C9H5BrO2
reactant | phenylboronic acid | 326 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 176 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Phenyl-benzofuran-7-carbaldehyde | 214 mg | C1(=CC=CC=C1)C=1C=C(C2=C(C=CO2)C1)C=O | C15H10O2
